US05541160
A mixture of 4-(n-pentyloxyphenyl)-4'-methoxycarbonylbiphenyl (220 mg, 0.58 mmol) and 5N sodium hydroxide (1.17 mL, 5.88 mmol) in tetrahydrofuran (20 mL) was heated at 80° C. under reflux for a period of 18 h. The cooled mixture was acidified with 1N hydrochloric acid (35 mL) and partitioned between ethyl acetate and water. The organic suspension was washed with water (3×) and brine. The organic layer was then filtered to give the carboxylic acid, 4-(n-pentyloxyphenyl)-4'-carboxybiphenyl (210 mg).

reactant | 4-(n-pentyloxyphenyl)-4'-methoxycarbonylbiphenyl | 0.58 mmol, 220 mg | C(CCCC)OC1=C(C=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C25H26O3
reactant | sodium hydroxide | 5.88 mmol, 5N, 1.17 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 35 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(n-pentyloxyphenyl)-4'-carboxybiphenyl | 210 mg | C(CCCC)OC1=C(C=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H24O3
